US04920129
To a solution of 8-amino-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine (8.0 g) and triethylamine (4.8 g) in methanol (80 ml) was added 2-methyl-6-methoxycarbonylaminobenzyl chloride (10.15 g) and the mixture was stirred at room temperature for 17 hours. After methanol was evaporated in vacuo, the resultant residue was dissolved in methylene chloride (100 ml) and the mixture was washed with water and dried over magnesium sulfate. The solvent was evaporated in vacuo. The resultant residue was subjected to column chromatography on silica gel (240 g) and eluted with a mixture of chloroform and ethyl acetate (20:1) to give a crystalline product. The crystals were recrystallized from a mixture of ethyl acetate and n-hexane to give 8-(2-methyl-6-methoxycarbonylaminobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine (6.08 g).

reactant | 8-amino-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine | 8.0 g | NC=1C=2N(C=CC1)C(=C(N2)C)CC#C | C11H11N3
reactant | triethylamine | 4.8 g | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-6-methoxycarbonylaminobenzyl chloride | 10.15 g | CC1=C(CCl)C(=CC=C1)NC(=O)OC | C10H12ClNO2
solvent | methanol | 80 ml | CO | CH4O
product | 8-(2-methyl-6-methoxycarbonylaminobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine | 6.08 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)NC(=O)OC | C21H22N4O2
